US04053470
x. 6-[m-(Methylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride.
6-[m-(Methylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid (1.0 g.) is added to 10 ml. of SOCl2 containing 10 drops of dimethylformamide. Solution soon occurred, and after about 15 minutes, a new solid starts to appear. The mixture is diluted with methylene chloride, and the 6-[m-(methylamino)phenyl]-1,2-dihydro-2-oxonicotinyl chloride hydrochloride collected and washed with methylene chloride.

reactant | 6-[m-(Methylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 1.0 g | CNC=1C=C(C=CC1)C=1NC(C(C(=O)O)=CC1)=O | C13H12N2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | SOCl2 | 10 drops | O=S(Cl)Cl | Cl2OS
product | 6-[m-(Methylamino)phenyl]-1,2-dihydro-2-oxonicotinyl Chloride Hydrochloride | Cl.CNC=1C=C(C=CC1)C=1NC(C(CCl)=CC1)=O | InChI=1S/C13H13ClN2O.ClH/c1-15-11-4-2-3-9(7-11)12-6-5-10(8-14)13(17)16-12;/h2-7,15H,8H2,1H3,(H,16,17);1H
